US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(3-hydroxy-2,2-dimethyl-propyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid 3-hydroxy-2,2-dimethyl-propanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO-d6,400 MHz) δ0.78 (s, 12H, 4×CH3), 1.09 (d, J=6.4 Hz, 3H, CH3), 2.6 (m, 1H, CH), 3-3.3 (m, 7H, CH, CH2), 3.4 (brs, 1H, CH), 4.04 (s, 4H, OCH2, OCH2),4.65 (m, 2H, OH), 5.05 (m, 1H, CH), 6.34 (d, J=4.17 Hz, 1H, OH), 6.85 (dd, J=7.9, 1.53 Hz, 1H, Ar--H), 7.07 (m, 2H, Ar--H), 7.37-7.42 (m, 3H, Ar--H), 7.48 (s, 1H, Ar--H), 8.78 (brs, 1H, NH), 9.2 (brs, 1H, NH); IR (KBr, cm-1) 3400 (OH), 2900 (NH), 1760 (CO); MS m/e 594 (M+H)+ ; Analysis for: C30H40ClNO9 ×HCl: Calc'd: C, 57.14; H, 6.55; N, 2.22; Found: C, 56.44; H, 6.62; N, 2.38.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid 3-hydroxy-2,2-dimethyl-propanol | OCC(CO)(C)C.ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(3-hydroxy-2,2-dimethyl-propyl) ester | OCC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(CO)(C)C)(C)C | C30H40ClNO9
